US05366972
b) 5,11-Dihydro-11-ethyl-6-methoxyimino-2,4-dimethyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepine
A solution of 5,11-dihydro-11-ethyl-6-methanesulfonyloxy-2,4-dimethyl-6H-dipyrido[3,2-b:2',3'-e] [1,4]diazepine (0.3 g, 0.75 mmol), methoxylamine hydrochloride (0.15 g, 1.8 mmol) and diisopropylethylamine (0.3 g, 2 mmol) in methylene chloride was stirred at room temperature for 4 days. The organic phase was washed with water, dried, and filtered. The solution was concentrated in vacuo and the residue was chromatographed over silica with 20% ethyl acetate/hexane to give 0.07 g of the title compound, m.p. 164°-166° C.

reactant | 5,11-dihydro-11-ethyl-6-methanesulfonyloxy-2,4-dimethyl-6H-dipyrido[3,2-b:2',3'-e] [1,4]diazepine | 0.75 mmol, 0.3 g | C(C)N1C2=C(NC(C3=C1N=CC=C3)OS(=O)(=O)C)C(=CC(=N2)C)C | C16H20N4O3S
reactant | methoxylamine hydrochloride | 1.8 mmol, 0.15 g | Cl.O(C)N
reactant | diisopropylethylamine | 2 mmol, 0.3 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5,11-Dihydro-11-ethyl-6-methoxyimino-2,4-dimethyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepine | 0.07 g | C(C)N1C2=C(NC(C3=C1N=CC=C3)=NOC)C(=CC(=N2)C)C | C16H19N5O
